US08372867B2
A solution of 4-methyl-3-nitrobenzoylchloride (5.5 g) in dioxane (30 mL) was added dropwise to a solution of water (30 mL), dioxane (30 mL) and sodium borohydride (2.5 g) under ice cooling. The reaction solution was refluxed for one hour, and after cooling, the solution was filtered through Celite. Water was added to the filtrate, the mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain a crude product of (4-methyl-3-nitrophenyl)methanol (4 g).

reactant | 4-methyl-3-nitrobenzoylchloride | 5.5 g | CC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H6ClNO3
reactant | water | 30 mL | O | H2O
reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (4-methyl-3-nitrophenyl)methanol | 4 g | CC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C8H9NO3
